US05591862
According to the method described for Reference Example 22, 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)benzaldehyde was allowed to react with trimethyl phosphonoacetate to give methyl 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)cinnamate. Recrystallization from ethyl acetate--hexane gave colorless prisms, m.p.142°-143° C.

reactant | 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)benzaldehyde | CC1=C(N=C(S1)COC1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C18H15NO2S
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl 4-(5-methyl-4-phenyl-2-thiazolylmethoxy)cinnamate | CC1=C(N=C(S1)COC1=CC=C(C=CC(=O)OC)C=C1)C1=CC=CC=C1 | C21H19NO3S
